US20010036926A1
Synthesis of guanidino-L-cystine 1,4-bis(3-aminopropyl)piperazine copolymer
To a solution of guanidino-L-cystine (64 mg, 0.2 mmol) in water (10 mL) was slowly added N,N′-dicyclohexylcarbodiimide (82 mg, 0.4 mmol) and N-hyroxysuccinimide (46 mg, 0.4 mmol) in dioxane (5 mL). After 16 hr, the solution was filtered through a cotton plug and 1,4-bis(3-aminopropyl)piperazine (40 μL, 0.2 mmol) was added. The reaction was allowed to stir at room temperature for 16 h and then the aqueous solution was dialyzed in a 15,000 MW cutoff tubing against water (2×21) for 24 h. The solution was then removed from dialysis tubing, filtered through 5 μM nylon syringe filter and then dried by lyophilization to yield 5 mg of polymer.

reactant | guanidino-L-cystine | 0.2 mmol, 64 mg | N(C(=N)N)C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C7H15N5O4S2
reactant | N,N′-dicyclohexylcarbodiimide | 0.4 mmol, 82 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hyroxysuccinimide | 0.4 mmol, 46 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,4-bis(3-aminopropyl)piperazine | 0.2 mmol, 40 μL | NCCCN1CCN(CC1)CCCN | C10H24N4
solvent | water | 10 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | guanidino-L-cystine 1,4-bis(3-aminopropyl)piperazine | 5 mg | NCCCN1CCN(CC1)CCCN.N(C(=N)N)C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | InChI=1S/C10H24N4.C7H15N5O4S2/c11-3-1-5-13-7-9-14(10-8-13)6-2-4-12;8-2(5(13)14)1-17-18-4(12-7(10)11)3(9)6(15)16/h1-12H2;2-4H,1,8-9H2,(H,13,14)(H,15,16)(H4,10,11,12)/t;2-,3-,4?/m.0/s1
